US07795283B2
i) 3-Chloro-4-(1,4-dioxaspiro[4.5]dec-7-en-8-yl)aniline
A 2N aqueous solution of potassium carbonate (26.5 mL) and tetrakis(triphenylphosphine) palladium(0) (1.23 g, 1.06 mmol) were added sequentially, each in one portion, to a stirred solution of 8-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1,4-dioxaspiro[4.5]dec-7-ene (Intermediate 78ii, 5.65 g, 21.2 mmol) and 4-bromo-3-chloro aniline (4.39 g, 21.2 mmol) in dimethoxyethane (80 mL) at room temperature under an argon atmosphere. The reaction mixture was then heated at 80° C. for 24 h under an argon atmosphere. The reaction mixture was cooled to room temperature and ethyl acetate was added and then the mixture was washed twice with H2O and then brine. The organic layer was dried (MgSO4) and concentrated in vacuo to leave an oil, which was purified by column chromatography, using a gradient of 20-50% ethyl acetate:isohexane as eluent, to give the title compound (3.5 g, 62%) as a solid; 1H NMR δ 1.7-1.8 (2H, m), 2.26-2.43 (4H, m), 3.91 (4H, s), 5.28 (2H, s), 5.4-5.47 (1H, m), 6.45 (1H, dd), 6.59 (1H, d), 6.86 (1H, d).

reactant | potassium carbonate | 26.5 mL | C([O-])([O-])=O.[K+].[K+]
reactant | 8-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1,4-dioxaspiro[4.5]dec-7-ene | 21.2 mmol, 5.65 g | CC1(OB(OC1(C)C)C1=CCC2(OCCO2)CC1)C | C14H23BO4
reactant | 4-bromo-3-chloro aniline | 21.2 mmol, 4.39 g | BrC1=C(C=C(N)C=C1)Cl | C6H5BrClN
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | dimethoxyethane | 80 mL | C(OC)COC | C4H10O2
catalyst | tetrakis(triphenylphosphine) palladium(0) | 1.06 mmol, 1.23 g | [Pd].C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1
product | 3-Chloro-4-(1,4-dioxaspiro[4.5]dec-7-en-8-yl)aniline | 3.5 g, 62% | ClC=1C=C(N)C=CC1C1=CCC2(OCCO2)CC1 | C14H16ClNO2
